US07700591B2
(1S)—N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]-1-isopropyl-4-oxocyclopent-2-ene-1-carboxamide (32 g, 80.6 mmol) was dissolved in MeOH and was hydrogenated for 18 hr with a hydrogen balloon in the presence of a catalytic amount of 10% palladium on carbon. The palladium was filtered through a celite plug. The filtrate was evaporated to dryness to give (1S)—N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]-1-isopropyl-3-oxocyclopentanecarboxamide as a yellow solid.

reactant | (1S)—N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]-1-isopropyl-4-oxocyclopent-2-ene-1-carboxamide | 80.6 mmol, 32 g | C(C)(C)(C)OC1=C(CNC(=O)[C@]2(C=CC(C2)=O)C(C)C)C=C(C=C1)C(F)(F)F | C21H26F3NO3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | (1S)—N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]-1-isopropyl-3-oxocyclopentanecarboxamide | C(C)(C)(C)OC1=C(CNC(=O)[C@@]2(CC(CC2)=O)C(C)C)C=C(C=C1)C(F)(F)F | C21H28F3NO3
